US05534515
2c. 1-Benzyl-7-benzyloxy-3-formyl-2-methylpyrrolo-[2,3-d]pyridazine
5.0 g (12.2 mmol) of 1-benzyl-7-benzyloxy-3-bromo-2-methylpyrrolo[2,3-d]pyridazine, 9 ml (14.7 mmol) of a 15% strength solution of n-butyllithium in hexane and 2.4 ml (29.4 mmol) of dimethylformamide are reacted in 125 ml of anhydrous tetrahydrofuran as described for Example 2a. Yield: 32%, m.p.: 147°-149° C.

reactant | 1-benzyl-7-benzyloxy-3-bromo-2-methylpyrrolo[2,3-d]pyridazine | 12.2 mmol, 5.0 g | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=CC=C2)Br)C | C21H18BrN3O
reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethylformamide | 29.4 mmol, 2.4 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-7-benzyloxy-3-formyl-2-methylpyrrolo-[2,3-d]pyridazine | Yield: 32% | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=CC=C2)C=O)C | C22H19N3O2
